US08293925B2
LHMDS (1 M solution in THF, 9.72 mL, 9.72 mmol) was added slowly to a cooled (−50° C.) solution of 1-(2,6-dimethylphenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester (2 g, 8.09 mmol) in THF (50 mL). The solution was stirred at −50° C. for 5 min then warmed to 0° C. and stirred for a further 5 min. After cooling back to −50° C., BOMCl (˜90% pure, 2.46 mL, 17.8 mmol) was added and the resulting reaction mixture was warmed to room temperature and stirred for 2 h. Saturated aqueous NH4Cl solution (25 mL) was added, and the aqueous solution was extracted with EtOAc (3×75 mL). The combined organic layer were washed with water (100 mL), brine (100 mL), dried (Na2SO4) and evaporated. The residue was purified by automated flash chromatography (SiO2, 10→50% EtOAc/hexanes) to give 3-benzyloxymethyl-1-(2,6-dimethylphenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester (653 mg, 22% yield). LC-MS: Rt (retention time): 2.72 min, MS: (ES) m/z 368.1 (M+H+).

reactant | LHMDS | 9.72 mmol, 1 M, 9.72 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1-(2,6-dimethylphenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | 8.09 mmol, 2 g | COC(=O)C1CN(C(C1)=O)C1=C(C=CC=C1C)C | C14H17NO3
reactant | BOMCl | 17.8 mmol, 2.46 mL | C(OCC1=CC=CC=C1)Cl | C8H9ClO
reactant | NH4Cl | 25 mL | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-benzyloxymethyl-1-(2,6-dimethylphenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | 653 mg, 22% yield | COC(=O)C1(CN(C(C1)=O)C1=C(C=CC=C1C)C)COCC1=CC=CC=C1 | C22H25NO4
